US06369110B1
6-[Bis(methylthio)methylene]-9-ethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (0.35 g, 1.31 mmol) was dissolved in ethanol (7 ml), followed by adding thereto sodium tetrahydroborate (0.16 g, 4.35 mmol), and the reaction mixture was heated under reflux for 2 hours. The reaction mixture was poured into ice water and extracted with ethyl acetate, and the extract solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and boron trifluoride diethyl ether complex (0.56 g, 3.95 mmol) was added to the residue, followed by stirring at room temperature for 20 minutes. Then, methanol (5 ml) was added thereto and the resulting mixture was heated under reflux for 3 hours. The reaction mixture was poured into ice water and extracted with ethyl acetate, and the extract solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography to obtain 0.20 g of methyl 5-ethyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylate.

reactant | 6-[Bis(methylthio)methylene]-9-ethyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 1.31 mmol, 0.35 g | CSC(=C1C(C2=C(C(CC1)CC)C=CC=C2)=O)SC | C16H20OS2
reactant | sodium tetrahydroborate | 4.35 mmol, 0.16 g | [BH4-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
reactant | ethanol | 7 ml | C(C)O | C2H6O
product | methyl 5-ethyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 0.20 g | C(C)C1CCC(=CC2=C1C=CC=C2)C(=O)OC | C15H18O2
